US06214865B1
This material was dissolved in THF (0.1 mL), cooled to at 0° C. and treated with 0.5 M CF3TMS in THF (30 μL, 15 mmol) followed by 0.05 M TBAF in THF (5 mL, 0.025 mmol). After stirring for 30 min, the reaction mixture was diluted with saturated aqueous NaHCO3 (2 mL) and H2O (1 mL), extracted with EtOAc (6×), dried over Na2SO4, filtered and concentrated to give the crude bis-TMS ether.

reactant | CF3TMS | 0.5 M | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | TBAF | 0.05 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | H2O | 1 mL | O | H2O
solvent | THF | 0.1 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 0.025 mmol, 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mmol, 30 μL | C1CCOC1 | C4H8O
product | bis-TMS ether | [Si](C)(C)(C)O[Si](C)(C)C | C6H18OSi2
